US05342846
1-Cyclopropyl-6,8-difluoro-7-[3-(1,2,3-triazol-1-yl) azetidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
1-Cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (50 mg, 0.18 mmol) was reacted with 3-(1,2,3-triazol-1-yl) azetidine hydrochloride (72 mg, 0.45 mmol) in 3 ml of dry pyridine in the presence of 68.5 mg (0.45 mmol) of DBU at 80° C. for 16 h. The yellow solution was then evaporated to dryness, water was added to the residue, solid was collected and dried to yield 64 mg (92%) of the desired product. m.p. 315°-316° C. 1H NMR (TFA) δ: 9.26 (s, 1H), 8.75 (d, 1.2Hz, 1H), 8.60 (d, 1.2Hz, 1H), 8.10 (d, 11.8Hz, 1H), 6.35-6.0 (m, 1H), 5.8-5.15 (m, 4H), 4.65-4.3 (m, 1H), 1.9-1.3 (m, 4H). Anal. calcd. for C18H15F2N 5 O3H2O: C, 53.33; H, 4.23; N, 17.28. Found: C, 53.68; H, 4.23; N, 17.28.

reactant | 1-Cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.18 mmol, 50 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3-(1,2,3-triazol-1-yl) azetidine hydrochloride | 0.45 mmol, 72 mg | Cl.N1(N=NC=C1)C1CNC1
reactant | DBU | 0.45 mmol, 68.5 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 1-Cyclopropyl-6,8-difluoro-7-[3-(1,2,3-triazol-1-yl) azetidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 64 mg, 92% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(C1)N1N=NC=C1)F)=O)C(=O)O | C18H15F2N5O3
